US09388172B2
In a 50 mL round-bottomed flask, 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanenitrile (200 mg, 549 μmol) and hydroxylamine hydrochloride (37.9 mg, 549 μmol) were combined with EtOH (2 ml) to give a colorless suspension. DIEA (106 mg, 144 μl, 823 μmol) was added and the resulting mixture was stirred at 100° C. for 6 hr. The crude reaction mixture was concentrated in vacuo to give (Z)-4,4,4-trifluoro-N′-hydroxy-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanimidamide as a viscous oil. 85% pure by LC-MS. MH+=398.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanenitrile | 549 μmol, 200 mg | FC(C(CC#N)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H18F6N2
reactant | hydroxylamine hydrochloride | 549 μmol, 37.9 mg | Cl.NO
reactant | DIEA | 823 μmol, 144 μl, 106 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 2 ml | CCO | C2H6O
product | (Z)-4,4,4-trifluoro-N′-hydroxy-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanimidamide | FC(C(C/C(/N)=N/O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H21F6N3O
